US08497281B2
(1H-Benzoimidazol-5-yl)-[cis-8-(4-methoxy-phenoxy)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-methanone
The title compound is prepared from 1H-benzoimidazole-5-carboxylic acid and cis-8-(4-methoxy-phenoxy)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline following a procedure analogous to that described in Example 1. Yield: 72% of theory; LC (method 1): tR=3.16 min; Mass spectrum (ESI+): m/z=454 [M+H]+.

reactant | 1H-benzoimidazole-5-carboxylic acid | N1C=NC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | cis-8-(4-methoxy-phenoxy)-1,2,3,4,4a,5,6,10b-octahydro-benzo[f]quinoline | COC1=CC=C(OC2=CC3=C([C@H]4CCCN[C@H]4CC3)C=C2)C=C1 | C20H23NO2
product | (1H-Benzoimidazol-5-yl)-[cis-8-(4-methoxy-phenoxy)-2,3,4a,5,6,10b-hexahydro-1H-benzo[f]quinolin-4-yl]-methanone | Yield: 72% | N1C=NC2=C1C=CC(=C2)C(=O)N2CCC[C@@H]1C3=C(CC[C@H]21)C=C(C=C3)OC3=CC=C(C=C3)OC | C28H27N3O3
